US09062076B2
Piperidine (0.96 mL, 9.7 mmol) was added to a suspension of 3,4-dimethoxybenzaldehyde (1.6 g, 9.7 mmol) and 2-[(carboxyacetyl)amino]benzoic acid (1.9 g, 8.6 mmol) in toluene (5.0 mL). The reaction flask was fitted with a Dean-Stark apparatus and heated to reflux for 4 h, then cooled to rt and the resulting suspension was filtered and washed with toluene. The piperidinium salt was dissolved in MeOH (5.0 mL) and water (2.0 mL) at 40° C. and the solution was acidified with concentrated HCl. The precipitate was filtered, providing (E)-2-[[3-(3,4-dimethoxyphenyl)-1-oxo-2-propenyl]amino]benzoic acid (tranilast) (2.1 g, 74%) as a yellow crystalline solid; mp 208-209° C., lit.2 206° C.; δH (500 MHz, DMSO-d6) 3.79 (s, 3H, OCH3), 3.82 (s, 3H; OCH3), 6.79 (d, J=15.5 Hz, 1H, CH═CHCO), 6.99 (d, J5′,4′=8.5 Hz, 1H, H5′), 7.16 (t, J3,4=J4,5=7.9 Hz, 1H, H4), 7.25 (d, J5′,6′=8.5 Hz, 1H, H6′), 7.38 (s, 1H, H2′), 7.56 (d, J=15.5 Hz, 1H, CH═CHCO), 7.61 (t, J4,5=J5,6=7.9 Hz, 1H, H5), 8.00 (d, J3,4=7.9 Hz, 1H, H3), 8.62 (d, J5,6=7.9 Hz, 1H, H6), 11.30 (s, 1H, NH), 13.61 (br s, 1H, CO2H).

reactant | Piperidine | 9.7 mmol, 0.96 mL | N1CCCCC1 | C5H11N
reactant | 3,4-dimethoxybenzaldehyde | 9.7 mmol, 1.6 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | 2-[(carboxyacetyl)amino]benzoic acid | 8.6 mmol, 1.9 g | C(=O)(O)CC(=O)NC1=C(C(=O)O)C=CC=C1 | C10H9NO5
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-2-[[3-(3,4-dimethoxyphenyl)-1-oxo-2-propenyl]amino]benzoic acid | 2.1 g, 74% | COC=1C=C(C=CC1OC)/C=C/C(=O)NC1=C(C(=O)O)C=CC=C1 | C18H17NO5
